US03966733
2-Imino-1-[[(o-bromophenyl)thio]methyl]pyrimidine
To a suspension of 13.8 g of anhydrous potassium carbonate in 150 ml of anhydrous n-propanol is added 33.1 g of 2-amino-1-[[(o-bromophenyl)thio]methyl]pyrimidinium chloride, portionwise, under nitrogen, at room temperature, with stirring. Subsequently, the mixture is stirred and heated under reflux for 2 hours, filtered hot, and the filtrate concentrated in vacuo. The residue is partitioned between 200 ml each of water and ether, the ether layer is separated, dried, and concentrated to give about 28.7 g of the named compound, after recrystallization from pentane.

reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-amino-1-[[(o-bromophenyl)thio]methyl]pyrimidinium chloride | 33.1 g | [Cl-].NC1=[N+](C=CC=N1)CSC1=C(C=CC=C1)Br
solvent | n-propanol | 150 ml | C(CC)O | C3H8O
product | 2-Imino-1-[[(o-bromophenyl)thio]methyl]pyrimidine | about 28.7 g | N=C1N(C=CC=N1)CSC1=C(C=CC=C1)Br | C11H10BrN3S
